US04492702
(A) 4-(2-propenyloxy)-1-phenyl-1,8-naphthyridin-2(1H)-one
To a mixture of 62 g. of 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one, 39.6 g. of anhydrous potassium carbonate and 1,800 ml of acetone there is added dropwise, with stirring, 37.5 g. of allyl bromide. The reaction mixture is refluxed for 22 hours, concentrated in vacuo, and the residue extracted with 600 ml. of chloroform. The organic extract is washed with water, 1N sodium hydroxide solution and again with water, dried over anhydrous magnesium sulfate, filtered and concentrated. The crude solid is triturated with 3×400 ml of boiling isopropyl ether, filtered, yielding the insoluble product, wt. 38.5 g. m.p. 171°-174°. Recrystallization from methanol produces the product as a colorless solid, m.p. 176°-177° C.

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | acetone | 1,800 ml | CC(=O)C | C3H6O
product | 4-(2-propenyloxy)-1-phenyl-1,8-naphthyridin-2(1H)-one | C(C=C)OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C17H14N2O2
